US04912231
B. (cis)-1-o-Bromobenzoyl-4-hydroxy-L-proline, methyl ester
Into a flame-dried 100 ml three-necked round-bottomed flask containing 30 ml of distilled THF was placed 3.00 g (16.575 mmol) of (cis)-4-hydroxy-L-proline, methyl ester; the vessel was immersed in an ice/water bath and the suspension was allowed to stir under argon for 5 minutes. At this time, 6.35 ml (36.465 mmol) of diisopropylethylamine was added slowly via syringe; the mixture was allowed to stir for 10 minutes, whereupon 3.64 g (16.576 mmol) of 2-bromobenzoyl chloride was added dropwise via syringe over the course of 10 minutes. The mixture was allowed to stir at 0° for 2 hours then gradually brought to room temperature overnight. The mixture was concentrated under vacuum to a minimal volume, transferred to a separatory funnel, and diluted with 100 ml of ethyl acetate, then washed with 1N HCl (2×30 ml), saturated sodium bicarbonate (2×30 ml), and brine (30 ml). The organic solution was dried over sodium sulfate, filtered, and concentrated under vacuum. Recrystallization from hot ethyl acetate yielded 3.034 g (55.6%) of the title compound, m.p. 145.5°-146.8° C.; a second recrystallization of the mother liquor yielded 1.726 g to bring the net yield to 4.760 g (87.3%).

reactant | (cis)-4-hydroxy-L-proline, methyl ester | 16.575 mmol, 3.00 g | O[C@H]1C[C@H](NC1)C(=O)OC | C6H11NO3
reactant | diisopropylethylamine | 36.465 mmol, 6.35 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-bromobenzoyl chloride | 16.576 mmol, 3.64 g | BrC1=C(C(=O)Cl)C=CC=C1 | C7H4BrClO
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | (cis)-1-o-Bromobenzoyl-4-hydroxy-L-proline, methyl ester | 3.034 g, 55.6% | BrC1=C(C(=O)N2[C@H](C(=O)OC)C[C@@H](C2)O)C=CC=C1 | C13H14BrNO4
